US05708001
A solution of 2-t-butyl-5-trifluoromethylnitrobenzene (26.0 g, 105 mmol) in ethanol (95%, 100 mL) is treated with 10% Pd/C (2 g) and placed under a hydrogen atmosphere (40 psi) on a Parr apparatus for 1.5 h. The mixture is filtered, concentrated and purified by silica gel chromatography (7:1 hexane to ethyl acetate) to give 2-t-butyl-5-trifluoromethylaniline as an oil; yield: 20.2 g (89%).

reactant | 2-t-butyl-5-trifluoromethylnitrobenzene | 105 mmol, 26.0 g | C(C)(C)(C)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C11H12F3NO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 2-t-butyl-5-trifluoromethylaniline | C(C)(C)(C)C1=C(N)C=C(C=C1)C(F)(F)F | C11H14F3N
